US07067658B2
Trifluoro-methanesulfonic acid 4-(2-chloro-4-trifluoromethyl-phenyl)-3-nitro-pyridin-2-yl-ester (0.50 g, 1.11 mmol), prepared substantially as described in Part C of Example 19a, and 2-methoxy-1-methyl-ethylamine HCl (0.28 g, 2.22 mmol) were treated in the same manner as in Part C of Example 19a to produce 0.45 g (100%) of [4-(2-chloro-4-trifluoromethyl-phenyl)-3-nitro-pyridin-2-yl]-(2-methoxy-1-methyl-ethyl)-amine: MS (AP) m/z 389.8 [(M+H)+, 100].

reactant | Trifluoro-methanesulfonic acid 4-(2-chloro-4-trifluoromethyl-phenyl)-3-nitro-pyridin-2-yl-ester | 1.11 mmol, 0.50 g | ClC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=NC=C1)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C13H5ClF6N2O5S
reactant | 2-methoxy-1-methyl-ethylamine HCl | 2.22 mmol, 0.28 g | Cl.COCC(C)N
product | [4-(2-chloro-4-trifluoromethyl-phenyl)-3-nitro-pyridin-2-yl]-(2-methoxy-1-methyl-ethyl)-amine | 0.45 g, 100% | ClC1=C(C=CC(=C1)C(F)(F)F)C1=C(C(=NC=C1)NC(COC)C)[N+](=O)[O-] | C16H15ClF3N3O3
